US04072680
(b) 5-Hydroxypyrazolo[1,5-a]pyrido[3,2-e]pyrimidine
103 g. of 2-chloro-N-(1H-pyrazol-5-yl)-3-pyridinecarboxamide are suspended in 600 ml. of diphenyl ether and heated with stirring at 180° until the evolution of HCl gas ceases. After cooling to room temperature, 5-hydroxypyrazolo[1,5-a]pyrido[3,2-e]pyrimidine is filtered off, yield: 75 g. (88%); m.p. ≥ 300° (DMF).

reactant | 2-chloro-N-(1H-pyrazol-5-yl)-3-pyridinecarboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=NN1 | C9H7ClN4O
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | HCl | Cl | ClH
product | 5-Hydroxypyrazolo[1,5-a]pyrido[3,2-e]pyrimidine | OC1=NC=2N(C3=C1C=CC=N3)N=CC2 | C9H6N4O
